US05935977
2-Pyridone (4.76 g, 50 mmol) and ethyl bromoacetate (10.02 g, 60 mmol) were dissolved in acetone (100 ml). Potassium carbonate (8.28 g, 60 mmol) was added to the solution and the mixture was refluxed for two hours with stirring. After being cooled, insoluble substances were removed by filtration and the filtrate was evaporated to dryness. The residue was purified by silica gel column chromatography, to thereby obtain N-ethoxycarbonylmethyl-2-pyridone (7.60 g, yield 84%).

reactant | 2-Pyridone | 50 mmol, 4.76 g | N1C(C=CC=C1)=O | C5H5NO
reactant | ethyl bromoacetate | 60 mmol, 10.02 g | BrCC(=O)OCC | C4H7BrO2
reactant | Potassium carbonate | 60 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-ethoxycarbonylmethyl-2-pyridone | 7.60 g, yield 84% | C(C)OC(=O)CN1C(C=CC=C1)=O | C9H11NO3
